* Z:\mnt\spice-netlists\LTC3864_TA02A.asc
XU1 N003 N011 0 N008 N009 N006 N012 N002 N001 N004 IN N007 0 LTC3864
C1 N005 0 6.8n
V1 IN 0 24
C2 IN N001 .1µ
R1 IN N004 50m
M§Q1 N010 N007 N004 N004 Si7113DN
D1 0 N010 B560C
L1 N010 OUT 47µ
R2 OUT N009 887K
R3 N009 0 30.1K
C3 OUT 0 10µ
R4 N011 0 97.6K
C4 N006 0 100p
R5 OUT N012 768K
R6 N012 0 200K
C5 IN 0 33µ
R7 N006 N005 30.1K
C6 IN 0 2.2µ
Rload OUT 0 24
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LTC3864 - 60V Low Iq Step-Down DC/DC Controller with 100% Duty Cycle Capability\n24V Output Automotive Step-Down Converter\nInput: 24V to 60V     Output: 24V @ 1A, Fsw = 750KHz\nVout follows Vin when 3.5V <= Vin <= 24V
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC3864.sub
.backanno
.end
