* Z:\mnt\spice-netlists\LTC3866_TA01A.asc
XU1 N010 N002 N012 N013 N018 N017 0 OUT N011 OUT N014 N008 N016 0 N009 N006 N005 N003 N001 IN NC_01 N015 N004 0 0 LTC3866
V1 IN 0 12
C1 0 N001 4.7µ
R1 N010 0 100K
C2 N013 0 1500p
C3 N012 0 0.001µ
D1 N001 N003 CMDSH2-3
C4 N003 N006 .1µ
M§Q1 IN N005 N006 N006 BSC050NE2LS
M§Q2 N006 N009 0 0 BSC010NE2LS
L1 N006 OUT .33µ
R2 N006 N011 4.64K
R3 N006 N014 931
C5 N011 OUT 220n
C6 OUT N014 220n
R4 N017 N018 30.1K
R5 N018 0 20K
C7 IN 0 10µ x2
R6 N001 N004 100k
R7 N001 N008 3.01K
R8 N008 0 1K
C8 OUT 0 100µ
C9 OUT 0 330µ
V2 N007 0 PULSE(0 1 .7m 1u 1u .2m .4m)
S§Load 0 OUT N007 0 load
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3866 - Current Mode Synchronous Controller for Sub Milliohm DCR Sensing\nHigh Efficiency, 1.5V/30A Step-Down Converter with Very Low DCR Sensing\nInput: 4.5V to 20V     Output: 1.5V @ 30A, Fsw = 400kHz
* Note:\n  Small value are used for TRACK/SS capacitors to reduce simulation time. Typical value will vary from 10nF to 100nF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.model LOAD SW(Ron=.05 Roff=.1 Vt=.5 Vh=-.4)
.lib LTC3866.sub
.backanno
.end
