* Z:\mnt\spice-netlists\LTC3872_TA04A.asc
V1 IN 0 5
C1 IN 0 10µ
C2 OUT 0 10µ x2
C3 OUT 0 68µ
XU1 NC_01 N005 N006 0 N003 IN N001 N002 LTC3872
C4 N004 0 1000p
R1 N005 N004 52.3K
C5 N005 0 100p
C6 N001 0 .00068µ
L1 IN N002 8.2µ
M§Q1 N002 N003 0 0 BSZ088N03LS
R2 N006 0 12.1K
R3 OUT N006 232K
D1 N002 OUT B540C
Rload OUT 0 24
R4 IN N001 4.7Meg
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3.5m startup
* LTC3872 - No Rsense Current Mode Boost DC/DC Controller\nHigh Efficiency 5V Input, 24V Output Boost Converter\n Input: 3V to 9.8V  Output: 24V @ 1A
* Note:\n  A smaller RUN/SS capacitors is being used to reduce simulation time. The typical value should be 0.068µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC3872.sub
.backanno
.end
