* Z:\mnt\spice-netlists\LTC3890_TA01A.asc
V1 IN 0 48
M§Q1 IN N005 N010 N010 BSZ100N06LS3
M§Q2 N010 N013 0 0 BSZ100N06LS3
D1 N003 N007 MBRS1100
C1 N003 0 4.7µ
C2 N007 N010 .1µ
L1 N010 N011 8µ
R1 N011 OUT2 10m
C3 OUT2 0 10µ
M§Q3 IN N004 N009 N009 BSZ100N06LS3
M§Q4 N009 N012 0 0 BSZ100N06LS3
D2 N003 N006 MBRS1100
C4 N006 N009 .1µ
L2 N009 N008 4.7µ
R2 N008 OUT1 8m
C5 OUT1 0 10µ
R3 OUT1 N016 100K
R4 N016 0 31.6K
C6 N018 0 1n
C7 N020 0 .001µ
XU1 OUT1 N022 N023 NC_01 NC_02 0 N002 N002 OUT2 N015 N017 N019 N021 N001 N005 N010 N007 N013 N003 OUT2 0 IN N012 N006 N009 N004 N001 NC_03 N020 N018 N016 N014 LTC3890
C8 IN 0 2.2µ
C9 IN 0 2.2µ
C10 IN 0 2.2µ
C11 IN 0 2.2µ
R5 IN N002 499k
R6 N002 0 40.2K
C12 OUT2 0 220µ
C13 OUT1 0 330µ
R7 N022 0 41.2K
C14 IN 0 47µ
R8 N003 N001 100K
C15 N015 OUT2 2.2p
R9 N011 N015 100
C16 N014 OUT1 2.2p
R10 N014 N008 100
R11 OUT2 N017 100K
R12 N017 0 10.5K
C17 N019 0 470p
C18 N021 0 .001µ
Rload1 OUT1 0 0.66
Rload2 OUT2 0 2.83
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* Notes:\n  \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3890 - 60V Low IQ, Dual output, 2-Phase Synchronous Step-Down DC/DC Controller\nInput: 9V up to 60V   Outputs: 8.5V@3A  and 3.3V@5A
* 8.5V@3A
* 3.3V@5A
.lib LTC3890.sub
.backanno
.end
