* Z:\mnt\spice-netlists\LTC4000_TA01A.asc
M§Q1 N001 N007 N009 N009 BSC123N08NS3
M§Q2 N009 N012 0 0 BSC123N08NS3
D1 N002 N004 MBRS140
C1 N004 N009 .1µ
C2 N014 N015 47n
D2 0 N009 MBRS1100
L1 N009 N010 10µ
R1 N010 N003 3m
R2 N011 0 49.9K
C3 N006 0 .002µ
C4 N003 0 100µ
D3 N003 N002 1N4148
R3 N008 N003 150K
R4 0 N008 16.2K
C5 N002 0 1µ
XU1 N001 N005 N006 N008 N008 N013 MP_01 N011 N003 N010 0 N012 N002 N009 N007 N004 0 LT3845A
R5 N024 N005 1Meg
R6 IN N021 1.1Meg
R7 N021 0 100K
C6 IN 0 1µ
C7 N028 0 10n
C8 N031 0 10n
M§Q3 N003 N016 OUT OUT Si4427DY
M§Q4 N019 N018 N017 N017 Si4427DY
R8 OUT N020 1.15Meg
R9 N020 N022 127K
R10 N022 N026 133K
R11 N019 N026 1.13Meg
V1 N030 0 7.35
C9 N024 0 1µ
R12 0 N029 10K
R13 0 N033 22.1K
R14 0 N032 24.9K
C10 N034 0 0.0047µ
R15 OUT N017 5m
C11 N013 0 2200p
C12 N019 N030 10m
D4 0 N021 2V
XU2 N021 N005 N028 N035 N023 N031 N033 N032 N034 0 N025 N027 N024 N029 N022 N026 N019 N018 N017 OUT N020 N016 N003 N013 N015 N001 IN LTC4000 period=2
V2 IN 0 36
R16 IN N001 5m
C13 N001 0 100µ
R17 N014 N013 14.7K
R18 N025 N024 100K
R19 N027 N024 100K
R20 N029 N024 10K
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
.model 2V D(Ron=100 Roff=1G epsilon=.1 Vrev=2 revepsilon=.1)
* LTC4000 - High Voltage High Current Controller for Battery Charging and Power Management & LT3845A - High Voltage Synchronous Current Mode Step-Down Controller with Adjustable Operating Frequency\nHigh Voltage, High Current Buck Converter Charger for 3-Series LiFePO4 Battery Pack\nInput: 15V to 60V     Output: 12V @ 15A & 10.8V Battery Float Voltage @ 10A Max Charge Current with 2.9hrs Timer Termination
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* BATTERY
.lib LT3845A.sub
.lib LTC4000.sub
.backanno
.end
