* Z:\mnt\spice-netlists\LTC436012_TA01A.asc
C1 OUT 0 10µ
R1 OUT 0 10
L1 IN N001 1µ
V2 N003 0 PWL(0 0 1u 0)
M§Q1 N001 N002 OUT OUT Si4892DY
V3 IN 0 PWL(0u 0 100m 0 +1u 20 150m 20 +10u 0 400m 0 +1u 5 800m 5 +1u 20)
XU1 N001 N002 N003 OUT NC_01 0 LTC4360-1
C2 0 N002 .047µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1000m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC4360 - Overvoltage Protection Controller\n5V System Protected From 80V Overvoltage
.lib LTC4360-1.sub
.backanno
.end
