* Z:\mnt\spice-netlists\LTC3611_TA04_DC1318A.asc
C1 N004 0 .001µ
C2 N009 0 100p
V1 IN 0 12
L1 N003 OUT 1µ
C3 N003 N005 .22µ
D1 N007 N005 CMDSH2-3
R1 N008 0 49.9K
R2 OUT N008 100K
C4 OUT 0 100µ
Rload OUT 0 .18
R3 IN N002 255K
C5 N007 0 4.7µ
R4 N007 N006 35.7K
R5 N006 0 10K
C6 N010 0 1000p
R6 N009 N010 4.99K
C7 OUT 0 100µ
C8 IN 0 10µ
R7 N007 N001 100K
C9 IN 0 10µ
C10 OUT 0 100µ
XU1 0 MP_01 MP_02 N003 MP_03 MP_04 MP_05 MP_06 MP_07 MP_08 MP_09 IN MP_10 MP_11 MP_12 MP_13 MP_14 MP_15 MP_16 MP_17 MP_18 MP_19 MP_20 MP_21 MP_22 MP_23 MP_24 0 N005 N004 MP_25 MP_26 MP_27 MP_28 OUT N001 N006 N009 N007 MP_29 N002 MP_30 N008 NC_31 MP_32 MP_33 MP_34 MP_35 MP_36 MP_37 MP_38 MP_39 N007 LTC3611
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
* LTC3611 - 10A, 32V Monolithic Synchronous Step-Down DC/DC Converter\nHigh Input Voltage & High Current Density Buck Converter\nInput: 9V to 32V              Output: 1.8V @ 10A
* Note:\n  A smaller value SS capacitor (C1) is used to reduce simulation time. Typical value should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC3611.sub
.backanno
.end
