* Z:\mnt\spice-netlists\LTC3785_TA02_DC957A.asc
V1 IN 0 3
XU1 N012 N015 N013 N011 N017 0 N014 0 MP_01 OUT N007 N005 N002 N002 N009 N003 N008 N001 N001 N004 N006 IN N003 IN 0 LTC3785
M§Q1 IN N004 N001 N001 FDS6890A
M§Q2 N001 N008 0 0 FDS6890A
D1 N003 N006 CMDSH2-3
C8 N006 N001 .22µ
L1 N001 N002 2.2µ
M§Q3 OUT N005 N002 N002 FDS6890A
D2 N003 N007 CMDSH2-3
C9 N007 N002 .22µ
M§Q4 N002 N009 0 0 FDS6890A
D3 0 N001 PMEG2020AEA
D4 N002 OUT PMEG2020AEA
C16 OUT 0 150µ
R1 OUT N013 215K
R3 N013 0 127K
C2 OUT N010 220p
C3 N013 N015 10p
R5 OUT N011 215K
R6 N011 0 127K
R7 N017 0 42.2K
R8 N014 0 49.9K
C1 N012 0 500p
Rload OUT 0 1.1
C14 OUT 0 47µ
R4 N016 N015 31.6K
C4 N013 N016 470p
R2 N010 N013 10K
C7 N003 0 4.7µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3785 - 10V, High Efficiency, Synchronous, No Rsense, Buck-Boost Controller\n10W Li-Ion/9V Wall Adapter Buck-Boost Controller\nInput: 2.7V to 10V     Output: 3.3V @ 3A, Fsw = 500kHz
* Note:\n  Component substitutions have been made based on available component models and parasitics are not modeled\n  A smaller value SS capacitor (C1) is used to reduce simulation time. Typical value should be 2.2nF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC3785.sub
.backanno
.end
