* Z:\mnt\spice-netlists\LTC3854_TA02_DC1271A.asc
M§Q1 IN N005 N007 N007 RJK0305DPB
L1 N007 N008 0.56µ
R1 OUT N006 17.4K
R2 N006 0 20K
C1 N001 0 4.7µ
C2 N002 0 1n
V1 IN 0 12
D1 N001 N003 ZLLS1000
M§Q2 N007 N010 0 0 RJK0301DPB
C3 N004 0 2.2n
XU1 N006 N004 N002 N003 N005 N007 0 N010 N001 IN N009 N011 LTC3854
C4 N003 N007 .1µ
R3 OUT N008 2m
R4 OUT N009 47
R5 N008 N011 47
C5 OUT 0 330µ x2
C6 OUT 0 100µ x2
C7 IN 0 180µ
C8 IN 0 10µ
C9 N009 N011 1n
Rload OUT 0 100m
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* LTC3854 - Small Footprint, Wide Vin Range Synchronous Step-Down DC/DC Controller\nSmall Footprint Step-Down DC-DC Converter\nInput: 4.5V to 14V     Output: 1.5V @ 15A, Fsw = 400kHz
* Notes:\n  Small value is used for the RUN/SS capacitor to reduce simulation time. Typical value should be .1µF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3854.sub
.backanno
.end
