* Z:\mnt\spice-netlists\LTC6991_TA07_LTC6994-1.asc
XU1 N001 0 N006 N007 V+ SHUTTER LTC6991
R1 V+ N007 332K
R2 N007 0 130K
R3 N006 N005 95.3K
V1 V+ 0 5
R4 N005 0 2Meg
R5 N005 0 .5Meg
R6 N003 N002 47.5K
C1 V+ 0 1µ
XU2 SHUTTER 0 N003 N004 V+ N001 LTC6994-1
R7 V+ N004 1Meg
R8 N004 0 681K
R9 N002 0 3Meg
R10 N002 0 .5Meg
R11 V+ N008 1Meg
.tran 200 startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2010 Linear Technology Inc. All rights reserved.
* LTC6992-1: TimerBlox; Resettable, Low Frequency Oscillator\n8 Second to 8.5 Minute Low Frequency Clock (Intervalometer for Time-Lapse Photography)\nAdjustable Aperture Time from 1/4sec to 4sec
* Aperture Adjustment, R10\n0 ohm for 0.25sec\n1Meg ohm for 4sec
* Shutter Rate Adjustment, R5\n0 ohm for 8sec\n1Meg ohm for 64sec
* Close Jumper for\n1min to 8min\nSlow Shutter Range
.lib LTC6991.sub
.lib LTC6994-1.sub
.backanno
.end
