* Z:\mnt\spice-netlists\LTC2063_TA01_OxygenSensor.asc
XU1 N003 N001 OUT V+ 0 V+ LTC2063
R1 N002 0 100
R2 N003 N002 100K
R3 N001 0 100K
R4 OUT N001 10Meg
I1 0 N002 {isensor}
V1 V+ 0 1.8
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
* LTC2063 - 2?A Supply Current, Low IB, Zero-Drift Operational Amplifier\nµPower Precision Oxygen Sensor\nOutput: 1V in air (20.9% O2)
.step param isensor 0 170u 10u
.op
* City Technology\n4OXV Oxygen Sensor
.lib LTC3.lib
.backanno
.end
