* Z:\mnt\spice-netlists\LTC3536_V22N3F3.asc
D2 OUT N011 QTLP690C
XU1 N008 0 0 N001 N002 OUT IN N006 N004 N009 0 LTC3536
D3 N003 IN B540C
XU2 0 N003 PhotoCell
R1 OUT N005 6.49K
R2 N010 N009 49.9K
R3 OUT N004 1020K
R4 N004 N011 158K
C1 N004 N009 10p
C2 N005 N004 47p
C3 N004 N010 220p
C4 0 OUT 22µ
R5 N008 0 100K
C5 IN 0 10µ
C6 IN N007 6m
R8 N011 0 2
L1 N001 N002 4.7µ
C7 N007 0 6m
V1 N006 0 PWL(10m 0 10.1m 3)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.subckt PhotoCell B A
C1 A B 1n
V1 N001 B PWL 0 0 3u 4.8
D1 N001 A S2
R1 A N001 75
.model S2 D(Ron=.1 Ilimit=5.1 epsilon=.5)
.ends
.tran 12m
* LTC3536 - 1A Low Noise, Buck-Boost DC/DC Converter\nSolar Cell Powered Emergency LED Torch Lighting Driver\nInput: 1.8V to 5V     Output: 3.3V @ 300mA (1A for Vin > 3V)
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3536.sub
.backanno
.end
